US08372875B2
5-[5-(Cyclopropylmethyl)-3-thienyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole
4-Bromo-2-(cyclopropylmethyl)thiophene (50 mg, 0.23 mmol), 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (80 mg, 0.19 mmol) and K2CO3 (105 mg, 0.76 mmol) was taken up in 1,4-dioxane (3 mL) and water (1.5 mL) in a microwave vial. The mixture was degassed by bubbling argon through it for 5 min. PdCl2(dppf).DCM adduct (25 mg, 0.031 mmol) was added, and the reaction was heated in a microwave for 5 min at 100° C. The reaction mixture was concentrated, diluted in DMSO, and purified on a Gilson HPLC(NH4OH buffer). The desired fractions were concentrated, giving 18 mg (22%) of the title compound.

reactant | 4-Bromo-2-(cyclopropylmethyl)thiophene | 0.23 mmol, 50 mg | BrC=1C=C(SC1)CC1CC1 | C8H9BrS
reactant | 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.19 mmol, 80 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
reactant | K2CO3 | 0.76 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | 0.031 mmol, 25 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
product | 5-[5-(Cyclopropylmethyl)-3-thienyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole | 18 mg, 22% | C1(CC1)CC1=CC(=CS1)C=1C=C2C(=CNC2=CC1)C1CCS(CC1)(=O)=O | C21H23NO2S2
